US04551171
Preparation of 5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitrophenyl ethanone methylimine.
To a stirred solution of 5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitrophenyl ethanone (3.3 g., 0.0092 mole) in absolute ethanol (30 ml) was bubbled methylamine for 0.5 hour as the temperature rose to about 40° C. The solution was stirred for 12 hours at room temperature and then heated to reflux for 4 hours. The solvent was stripped to give 3.0 g of a brown oil. Recrystallization from methanol/water gave a brown solid (1.2 g., mp. 133°-7° C.).

reactant | 5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitrophenyl ethanone | 0.0092 mole, 3.3 g | ClC1=C(OC=2C=CC(=C(C2)C(C)=O)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C15H9ClF3NO4
reactant | methylamine | CN | CH5N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitrophenyl ethanone methylimine | 3.0 g | CN=C(C)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C16H12ClF3N2O3
